US09255110B2
A mixture of 4-chloro-7-methyl-thieno[3,2-d]pyrimidine (2 g), palladium hydroxide on carbon (20%, 1 g) and sodium acetate (2 g) in a mixture of ethyl acetate and isopropanol (5/1, 30 mL) was shaken in a Parr apparatus under hydrogen atmosphere (50 PSI) overnight. The resulting mixture was filtered on a CELITE™ pad, the filter cake was washed with dichloromethane and the filtrate was evaporated under reduced pressure. The crude residue was purified by flash chromatography (acetone/DCM, 3/97) to afford 1 g of 7-methyl-thieno[3,2-d]pyrimidine.

reactant | 4-chloro-7-methyl-thieno[3,2-d]pyrimidine | 2 g | ClC=1C2=C(N=CN1)C(=CS2)C | C7H5ClN2S
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
catalyst | palladium hydroxide on carbon | 1 g | [OH-].[OH-].[Pd+2]
product | 7-methyl-thieno[3,2-d]pyrimidine | 1 g | CC1=CSC2=C1N=CN=C2 | C7H6N2S
